US08349859B2
To a solution of 4-hydroxy-2-(3-methoxyphenylamino)pyrimidine-5-carbonitrile in POCl3 was added DMF 0.5 ml. The solution was refluxed for 3 h. The reaction mixture was cooled to room temperature and poured into ice-water. The solution was adjusted to pH=8-9 by aqueous sodium carbonate solution and extracted with dichloromethane. The combined organic layers were washed with brine, dried over anhydrous Na2SO4, concentrated in vacuo to afford 4-chloro-2-(3-methoxyphenylamino)pyrimidine-5-carbonitrile.

reactant | 4-hydroxy-2-(3-methoxyphenylamino)pyrimidine-5-carbonitrile | OC1=NC(=NC=C1C#N)NC1=CC(=CC=C1)OC | C12H10N4O2
reactant | DMF | 0.5 ml | CN(C)C=O | C3H7NO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2-(3-methoxyphenylamino)pyrimidine-5-carbonitrile | ClC1=NC(=NC=C1C#N)NC1=CC(=CC=C1)OC | C12H9ClN4O
